US07696352B2
5-Chloro-N-((1-(4-(4-methyl-1,4-diazepan-1-yl)phenyl)-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide (110)
A mixture of 5-chloro-N-((1-(4-iodophenyl)-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide (100 mg, 0.225 mmol), 1-methylhomopiperazine (0.100 mL, 0.81 mmol), ethylene glycol (0.025 mL, 0.45 mmol) and K3PO4 (100 mg, 0.47 mmol) in isopropanol (1 mL) was degassed with Argon before being charged with CuI (20 mg, 0.11 mmol). The mixture in a sealed tube was heated at 85° C. overnight. It was then purified by HPLC to give the title compound (5 mg). MS 430.0 and 432.0 (M+H, Cl pattern).

reactant | 5-chloro-N-((1-(4-iodophenyl)-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide | 0.225 mmol, 100 mg | ClC1=CC=C(S1)C(=O)NCC=1C=NN(C1)C1=CC=C(C=C1)I | C15H11ClIN3OS
reactant | 1-methylhomopiperazine | 0.81 mmol, 0.100 mL | CN1CCNCCC1 | C6H14N2
reactant | ethylene glycol | 0.45 mmol, 0.025 mL | C(CO)O | C2H6O2
reactant | K3PO4 | 0.47 mmol, 100 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
catalyst | CuI | 0.11 mmol, 20 mg | [Cu]I
product | 5-Chloro-N-((1-(4-(4-methyl-1,4-diazepan-1-yl)phenyl)-1H-pyrazol-4-yl)methyl)thiophene-2-carboxamide | 5 mg | ClC1=CC=C(S1)C(=O)NCC=1C=NN(C1)C1=CC=C(C=C1)N1CCN(CCC1)C | C21H24ClN5OS
